US04948911
A portion of the 2-(2,4,6-triisopropylphenylsulfonyl)fluorene just described (8.67 g, 20.0 mmol) was placed in a 1 liter flask (equipped with a magnetic stirrer and reflux condenser) along with 17.9 g (60.0 mmol, 3.0 eq) of sodium dichromate dihydrate and 500 ml of glacial acetic acid. The mixture was refluxed for 15 hours, cooled, and poured into 2.0 liters of water. The solids were collected by filtration and washed with additional water (2×1.0 liter). The crude product was dried and purified by chromatography. A total of 3.60 g (8.06 mmol, 40.3%) of pure 2-(2,4,6-triisopropylphenylsulfonyl)fluorenone was obtained in this manner. Its structure was confirmed by IR, NMR, and ultraviolet-visible (UV-VIS) spectroscopy, FDMS, and combustion analysis.

reactant | 2-(2,4,6-triisopropylphenylsulfonyl)fluorene | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C28H32O2S
reactant | sodium dichromate dihydrate | 60.0 mmol, 17.9 g, 3.0 eq | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 2.0 liters | O | H2O
product | 2-(2,4,6-triisopropylphenylsulfonyl)fluorenone | 8.06 mmol, 3.60 g, 40.3% | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)C=1C(C2=CC3=CC=CC=C3C2=CC1)=O | C28H30O3S
